US05374641
To 13 g of methyl 4-[2-oxo-2-(3-pyridyl)ethyl]phenylacetate was added 8.0 g of ammonium formate, and reacted at 150° C. for four hours. After cooling, water was added, followed by extraction with chloroform. The chloroform phase obtained was washed in saturated aqueous sodium chloride solution and dried over magnesium sulfate, followed by distillation of the solvent, to produce 0.38 g of methyl 4-[2-formamido-2-(3-pyridyl)ethyl]phenylacetate.

reactant | methyl 4-[2-oxo-2-(3-pyridyl)ethyl]phenylacetate | 13 g | O=C(CC1=CC=C(C=C1)CC(=O)OC)C=1C=NC=CC1 | C16H15NO3
reactant | ammonium formate | 8.0 g | C(=O)[O-].[NH4+]
solvent | water | O | H2O
product | methyl 4-[2-formamido-2-(3-pyridyl)ethyl]phenylacetate | 0.38 g | C(=O)NC(CC1=CC=C(C=C1)CC(=O)OC)C=1C=NC=CC1 | C17H18N2O3
